US05045552
0.39 g of 60% sodium hydride was added to a suspension of 1.20 g (6.5 mmol) of 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide in 40 ml of tetrahydrofuran under cooling with ice in a nitrogen atmosphere to obtain a mixture. This mixture was stirred for 0.5 hour, followed by the addition of 0.83 g (6.5 mmol) of 2-chloromethylpyridine. The obtained mixture was heated under reflux for 8 hours, cooled and filtered. The filtrate was concentrated and purified by silica gel column chromatography (solvent: ethyl acetate/n-hexane=4:1~CHCl3 /MeOH=19:1) to obtain 0.61 g of 2,3-dimethyl-4-(2-pyridylmethoxyethoxy)pyridine N-oxide.

reactant | sodium hydride | 0.39 g | [H-].[Na+]
reactant | 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide | 6.5 mmol, 1.20 g | OCCOC1=C(C(=[N+](C=C1)[O-])C)C | C9H13NO3
reactant | 2-chloromethylpyridine | 6.5 mmol, 0.83 g | ClCC1=NC=CC=C1 | C6H6ClN
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-4-(2-pyridylmethoxyethoxy)pyridine N-oxide | 0.61 g | CC1=[N+](C=CC(=C1C)OCCOCC1=NC=CC=C1)[O-] | C15H18N2O3
